US07115611B2
D] 2-Methyl-2-{2-methyl-4-[2-methyl-6-(4-trifluoromethoxy-phenyl)-pyridin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester
To 0.123 g (0.516 mmol) of 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) and 0.163 g (0.540 mmol) of the above prepared 3-chloromethyl-2-methyl-6-(4-trifluoromethoxy-phenyl)-pyridine, dissolved in 4.7 ml of abs. acetonitrile, was added 0.184 g of Cs2CO3 (0.565 mmol). The reaction was stirred over night at ambient temperature. Pouring onto crashed ice/NH4Cl-solution, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=8/2) yielded 0.243 g of pure title compound as colorless oil.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.516 mmol, 0.123 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | 3-chloromethyl-2-methyl-6-(4-trifluoromethoxy-phenyl)-pyridine | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)OC(F)(F)F)C | C14H11ClF3NO
reactant | Cs2CO3 | 0.565 mmol, 0.184 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Methyl-2-{2-methyl-4-[2-methyl-6-(4-trifluoromethoxy-phenyl)-pyridin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester | 0.243 g | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)OC(F)(F)F)C)C)C)=O | C27H28F3NO5
